US07402592B2
3-Azabicyclo[3.2.1]octan-6-one ethylene ketal
6,8-Bis(methanesulfonyloxymethyl)-1,4-dioxaspiro[4.4]nonane (14.90 g, 43.3 mmol) was suspended in aqueous ammonia (35%, 150 ml) and heated for 18 h at 60° C. The reaction was cooled to ambient temperature and concentrated by rotary evaporation. The residue was treated with saturated sodium chloride solution (50 ml) and extracted with chloroform (3×50 ml). The organic extracts were combined, dried over sodium sulfate, filtered and concentrated to yield a brown oil (7.69 g, 100%).

reactant | 6,8-Bis(methanesulfonyloxymethyl)-1,4-dioxaspiro[4.4]nonane | 43.3 mmol, 14.90 g | CS(=O)(=O)OCC1C2(OCCO2)CC(C1)COS(=O)(=O)C | C11H20O8S2
reactant | ammonia | 150 ml | N | H3N
product | 3-Azabicyclo[3.2.1]octan-6-one ethylene ketal | 7.69 g, 100% | C1COC2(C3CNCC(C2)C3)O1 | C9H15NO2
